US07939528B2
4-Amino-3-nitrophenol (36 g, 234 mmol) was split into 3 batches, approximately 12 g each. Each batch was dissolved in 150 mL of tetrahydrofuran and heated with 10 mL of 96% formic acid at 95 degrees Centigrade for 4 hours. The 3 batches were combined and concentrated. As the reactions had only proceeded ˜10% to completion, the reaction mixture was dissolved in 100 mL of 96% formic acid and heated at 110 degrees Centigrade. After 30 minutes, a precipitate began to form and 150 mL of tetrahydrofuran was added to ensure good stirring. The reaction was heated at 110 degrees Centigrade for 15 hours. The reaction was concentrated and the residue was diluted with water. The resulting solid was collected by filtration. The solid was washed three times with water and then dried in a vacuum oven at 110 degrees Centigrade for approximately 18 hours to give 40.4 g of (4-hydroxy-2-nitrophenyl)formamide. (M-1) 181.0, 1.48 min (LC/MS method B)

reactant | 4-Amino-3-nitrophenol | 234 mmol, 36 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | formic acid | 10 mL | C(=O)O | CH2O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | (4-hydroxy-2-nitrophenyl)formamide | 40.4 g | OC1=CC(=C(C=C1)NC=O)[N+](=O)[O-] | C7H6N2O4
